US03951823
Example 4: Preparation and Separation of SO3 -Hexadecene Sulfonation Product
The aqueous-acetone layer which contained the sulfonic acid fraction of the product was stripped of solvents at 40°-45°C. under a vacuum to give 2.85 g. of viscous acid identified as hexadecene sulfonic acid on the basis of an IR spectrum which showed the presence of trans olefinic double bond (965 cm-1) and the absence of sultones (no 830 and 530 cm-1 bands).

reactant | hexadecene sulfonic acid | C(=CCCCCCCCCCCCCCC)S(=O)(=O)O | C16H32O3S
solvent | acetone | CC(=O)C | C3H6O
product | Hexadecene | C=CCCCCCCCCCCCCCC | C16H32
